US05840732
iii) Synthesis of 3-benzyl-6-chloro-1-(3-chloropropyl)pyrimidine-2,4(1H,3H)-dione
To a suspension of 18.93 g (80 mmol) of 3-benzyl-6-chloropyrimidine-2,4(1H,3H)-dione and 17.69 g (128 mmol) of potassium carbonate in 120 ml of N,N-dimethylformamide, 15.8 ml (160 mmol) of 1-bromo-3-chloropropane was added at room temperature. This mixture was stirred at 90° C. for 3 hours. After cooling, the reaction mixture was concentrated to dryness; the resulting residue was dissolved in chloroform-water. After the organic layer was washed with water and dried, the solvent was distilled off to yield an oily substance, which was then purified by column chromatography (eluent, n-hexane/ethyl acetate=5/1→3/1) to yield 13.46 g (53.7%, light yellow powder) of the desired product.

reactant | 3-benzyl-6-chloropyrimidine-2,4(1H,3H)-dione | 80 mmol, 18.93 g | C(C1=CC=CC=C1)N1C(NC(=CC1=O)Cl)=O | C11H9ClN2O2
reactant | potassium carbonate | 128 mmol, 17.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 160 mmol, 15.8 ml | BrCCCCl | C3H6BrCl
solvent | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 3-benzyl-6-chloro-1-(3-chloropropyl)pyrimidine-2,4(1H,3H)-dione | C(C1=CC=CC=C1)N1C(N(C(=CC1=O)Cl)CCCCl)=O | C14H14Cl2N2O2
